US08431563B2
A 100-mL round-bottomed was charged with 1,1,1,3,3,3-hexafluoro-2-(4-(1-piperazinyl)phenyl)-2-propanol (0.54 g, 1.65 mmol, published PCT patent application no. WO 2006/094842), 10 mL of CH2Cl2, and 5-bromo-2-thiophenesulfonyl chloride (0.43 g, 1.65 mmol, Sigma-Aldrich, St. Louis, Mo.). To this was added triethylamine (0.28 mL, 2.06 mmol). After 15 min at room temperature, the mixture was diluted with 10 mL of CH2Cl2 and filtered. The filtrate was concentrated and purified by column chromatography on silica gel (0-50% EtOAc in hexanes) to give 2-(4-(4-((5-bromo-2-thiophenyl)sulfonyl)-1-piperazinyl)phenyl)-1,1,1,3,3,3-hexafluoro-2-propanol (0.83 g) as a white solid.

reactant | 1,1,1,3,3,3-hexafluoro-2-(4-(1-piperazinyl)phenyl)-2-propanol | FC(C(C(F)(F)F)(O)C1=CC=C(C=C1)N1CCNCC1)(F)F | C13H14F6N2O
reactant | 5-bromo-2-thiophenesulfonyl chloride | 1.65 mmol, 0.43 g | BrC1=CC=C(S1)S(=O)(=O)Cl | C4H2BrClO2S2
reactant | triethylamine | 2.06 mmol, 0.28 mL | C(C)N(CC)CC | C6H15N
solvent | CH2Cl2 | 10 mL | C(Cl)Cl | CH2Cl2
solvent | CH2Cl2 | 10 mL | C(Cl)Cl | CH2Cl2
product | 2-(4-(4-((5-bromo-2-thiophenyl)sulfonyl)-1-piperazinyl)phenyl)-1,1,1,3,3,3-hexafluoro-2-propanol | 0.83 g | BrC1=CC=C(S1)S(=O)(=O)N1CCN(CC1)C1=CC=C(C=C1)C(C(F)(F)F)(C(F)(F)F)O | C17H15BrF6N2O3S2
